2141-10-22 07:50:00 Physician Resident Progress Note
Chief Complaint: hypotension, respiratory distress
   24 Hour Events:
   - pt had trach placed in stoma at bedside and placed on ventilator due
   to worsening Pco2: 72-91. ABG:
   - low valproic acid level of 32 --> restarted on home dose, will
   recheck in AM
   - Started TF and increased lantus to 10U (home dose)
   - a-line was placed
   - Pt with labile BP w/ MAP 60's, SBP 76-90.  Gave 500cc NS bolus x 4.
   Pt CVP was [**3-14**].  Started on hydrocort 50mg q6
   - Sent CBC, cortisol level (0.9), urine cx
 MULTI LUMEN - START [**2141-10-21**] 09:09 AM
 SPUTUM CULTURE - At [**2141-10-21**] 11:09 AM
 ARTERIAL LINE - START [**2141-10-21**] 05:30 PM
 EKG - At [**2141-10-22**] 12:49 AM
 URINE CULTURE - At [**2141-10-22**] 12:49 AM
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-10-21**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2141-10-21**] 07:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-10-22**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 76 (70 - 111) bpm
   BP: 101/52(68) {78/40(54) - 137/69(87)} mmHg
   RR: 12 (7 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 5 (3 - 5)mmHg
   Mixed Venous O2% Sat: 79 - 79
                                Total In:
                                                                  5,604 mL
                                                                  2,022 mL
   PO:
                                TF:
                                                                     54 mL
                                                                    292 mL
   IVF:
                                                                    500 mL
                                                                  1,500 mL
   Blood products:
   Total out:
                                                                  2,830 mL
                                                                    295 mL
   Urine:
                                                                  2,230 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,774 mL
                                                                  1,727 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 22 cmH2O
   Plateau: 11 cmH2O
   SpO2: 94%
   ABG: 7.41/61/85.[**Numeric Identifier 128**]/33/10
   Ve: 4 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Bronchial: , Diminished: Right side)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed, flat affect
   Labs / Radiology
   348 K/uL
   8.4 g/dL
   145 mg/dL
   0.3 mg/dL
   33 mEq/L
   3.9 mEq/L
   11 mg/dL
   102 mEq/L
   138 mEq/L
   25.3 %
   8.2 K/uL
        [image002.jpg]
                            [**2141-10-21**]  10:10 AM
                            [**2141-10-21**]  01:50 PM
                            [**2141-10-21**]  02:32 PM
                            [**2141-10-21**]  04:29 PM
                            [**2141-10-21**]  05:42 PM
                            [**2141-10-21**]  08:51 PM
                            [**2141-10-21**]  11:05 PM
                            [**2141-10-22**]  12:06 AM
                            [**2141-10-22**]  12:25 AM
                            [**2141-10-22**]  04:11 AM
   WBC
   7.3
   8.5
   8.2
   Hct
   31.0
   27.3
   25.3
   Plt
   [**Telephone/Fax (3) 5949**]
   Cr
   0.3
   0.3
   TCO2
   40
   42
   44
   41
   40
   40
   40
   Glucose
   131
   145
   Other labs: PT / PTT / INR:13.8/24.4/1.2, Differential-Neuts:76.5 %,
   Lymph:15.3 %, Mono:7.6 %, Eos:0.5 %, Lactic Acid:0.5 mmol/L, Ca++:8.2
   mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Assesment: 53 yoM w/ a h/o severe COPD s/p prolonged hospitilation for
   COPD flare, s/p trach and 1.5 years trach / vent dependent due to PNA
   and ARDS / COPD flare now s/p trach removal 10 days ago presents w/
   respiratory distress and hypotension.
   .
   Plan:
   # Hypotension: The patient continued to have labile BP overnight.  His
   CVP was [**3-15**] and he was bolused 500cc NS x4 with little response.  The
   patient was asx and without any evidence of end organ dysfunciton.  The
   patient was started on stress dose steriods ,hydrocort 50mg q6, given
   adrenal insufficiency.  His hypotension likely due to adrenal insuff
   and volume depletion. CXR shows possible LLL consolation?? Possible
   early pna.
   -monitor urine output, bolus prn for low urine output
   - cont stress dose steroids 50mg hydrocort q6
   - will bolus fluids to maintain pressures MAP >65.
   .
   # Hypercarbic respiratory failure: Pt with worsening PCO2 during the
   day.  Trach was placed and pt placed on ventilator.  Latest ABG
   7.41/61/85/40.  Likely [**2-11**] COPD and mucus plugging.  CXR shows diffuse
   opacity of the R lung and possible LLL consolidation vs atelectasis
   - will try patient on PS and recheck an ABG
   -Cont to monitor patient's respiratory status on ventilator
   -f/u CXR
   .
   # Increased secretions: Patient has increased secretions and diffuse
   hazziness of R lung improved with suction and chest PT.  Likely [**2-11**]
   mucus plugging.  Pt afebrile, no wbc, unlikely infectious etiology, but
   pt has had multiple organisms in the past including stanotrophomonas
   and pseudomonas in his sputum on his past admission in [**Month (only) 591**] to the
   [**Hospital Unit Name 44**].  CXR shows possible LLL consolidation, but afebrile and no
   leukocytosis.
   - empirically start vanco/ceftaz/azithro
   - send viral studies
   -f/u blood, sputum and urine cx
   - cont to hold abx unless febrile or cx data positve.
   -standing nebs
   .
   #Anemia:  Hct trending down to 25.3 today.  Pt received 2L fluid and
   other cell lines decreasing, likely dilutional.  However, will check
   hemolysis labs, guiac stools and check Fe studies.
   .
   # Schizoaffective d/o vs. schizophrenia: per psych patient does not
   have capacity to refuse medical care. Depakote level was low, but now
   therapeutic.  Will cont to monitor.
   -continue effexor, risperdal and depakote
   .
   # Seizures: tonic clonic seizures in past, thought to be related to
   previous CVA and 'toxic metabolic disturbances' upon previous
   admissions.
   -continue current dose of keppra 250mg po bid
   .
   # DM: home lantus 10u qhs  and HISS.
   .
   # FEN: tube feeds, nutrition recs
   .
   # Access: IJ and a-line
   .
   # PPx:  sc heparin tid and PPI, nystatin for thrush
   .
   # Code:  FULL CODE
   .
   # Dispo:  ICU
   .
   # Comm:
   ICU [**Name2 (NI) **]
   Nutrition:
   [**Name (NI) 140**] Pulmonary (Full) - [**2141-10-21**] 10:39 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-21**] 09:09 AM
   Arterial Line - [**2141-10-21**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-22 09:40:00 Physician Attending Progress Note
24 Hour Events:
   Active day yesterday following his admission.  Ulitmately continued to
   have elevated PCO2 and respiratory acidosis; therefore he had
   replacement of his tracheostomy by interventional pulmonary.  At the
   time of trach placement, he had a bronch with copioius mucoid proximal
   and distal secretions.  Overnight he had continued labile blood
   pressure associated with low CVP.  He improved with bolus of 1.5L NS
   and continued with periodic hypotension; so stress dose hydrocortisone
   was started (he has history of adrenal insufficiency).
   Allergies:
   No Known Drug Allergies
   ICU medications:
   Pantoprazole
   Heparin Sodium
   Folate
   Risperidone
   Keppra
   MVI
   Valproaic acid
   Insulin Sliding Scale/glargine
   Peridex
   Hydrocortisone
   Flowsheet Data as of  [**2141-10-22**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 110 (70 - 111) bpm
   BP: 131/69(92) {78/40(54) - 137/69(92)} mmHg
   RR: 25 (7 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
   CVP: 9 (3 - 10)mmHg
   Mixed Venous O2% Sat: 79 - 79
                                Total In:
                                                                  5,604 mL
                                                                  2,157 mL
   PO:
                                TF:
                                                                     54 mL
                                                                    367 mL
   IVF:
                                                                    500 mL
                                                                  1,500 mL
   Blood products:
   Total out:
                                                                  2,830 mL
                                                                    495 mL
   Urine:
                                                                  2,230 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,774 mL
                                                                  1,662 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 24 cmH2O
   Plateau: 13 cmH2O
   SpO2: 97%
   ABG: 7.41/61/85/33/10
   Ve: 7 L/min
   PaO2 / FiO2: 213
   Physical Examination
   Gen:  flat affect, opens eyes, follows simple commands
   Chest:  expiratory wheeze
   CV:  RRR w/o murmur
   Abd: s/nt/nd
   Ext:  no edema; warm/well-perfused
   Labs / Radiology
   8.4 g/dL
   348 K/uL
   145 mg/dL
   0.3 mg/dL
   33 mEq/L
   3.9 mEq/L
   11 mg/dL
   102 mEq/L
   138 mEq/L
   25.3 %
   8.2 K/uL
         [image002.jpg]
                            [**2141-10-21**]  10:10 AM
                            [**2141-10-21**]  01:50 PM
                            [**2141-10-21**]  02:32 PM
                            [**2141-10-21**]  04:29 PM
                            [**2141-10-21**]  05:42 PM
                            [**2141-10-21**]  08:51 PM
                            [**2141-10-21**]  11:05 PM
                            [**2141-10-22**]  12:06 AM
                            [**2141-10-22**]  12:25 AM
                            [**2141-10-22**]  04:11 AM
   WBC
   7.3
   8.5
   8.2
   Hct
   31.0
   27.3
   25.3
   Plt
   [**Telephone/Fax (3) 5949**]
   Cr
   0.3
   0.3
   TCO2
   40
   42
   44
   41
   40
   40
   40
   Glucose
   131
   145
   Other labs: PT / PTT / INR:13.8/24.4/1.2, Differential-Neuts:76.5 %,
   Lymph:15.3 %, Mono:7.6 %, Eos:0.5 %, Lactic Acid:0.5 mmol/L, Ca++:8.2
   mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   53M with COPD and history of chronic respiratory failiure; s/p recent
   trach removal at rehab and here w/ increased secretions; now in last
   24h had replacement of trach, and continued labile BP of unclear
   etiology.
   1.  Respiratory Failure:  Mucus plugging in setting of dimished
   pulmonary toiled s/p trach removal at rehab; also unclear if has
   bronchitis or PNA at this point; but no active signs of infection.
   Today he has evidence of wheezing and with rising PCO2 yesterday,
   increases liklihood of COPD exacerbation.
   - Plan to initiate antibiotics today: vanco/ceftaz/azithromycin and f/u
   cultures.  Also send viral panel.
   - Steroids
   - Continue PSV for now via trach
   - Frequent suctioning for pulmonary toilet
   2:  Hypotension:  Possibilities include adrenal insufficiency, autopeep
   on ventilator (not recorded), also hypovolemia, possible distributive
   physiology; but no other signs of sepsis.  Currently cultures are
   negative, but CXR with plugging and possible PNA.
   - Anbiotics as above.  Stress dose steroids.
   - Continue continuous BP monitoring with Arterial line
   3.  Endocrine:  History of adrenal insufficiency, and episodic
   hypotension
   - Continue stress dose hydrocortisone today; will decrease tomorrow at
   dose increased from baseline.
   ICU Care
   Nutrition:   Nutren Pulmonary (Full) - [**2141-10-21**] 10:39 PM 40 mL/hour
   Glycemic Control:  Insulin sliding scale/long acting
   Lines:
   Multi Lumen - [**2141-10-21**] 09:09 AM
   Arterial Line - [**2141-10-21**] 05:30 PM
   Prophylaxis:
   DVT:   heparin SQ
   Stress ulcer:   PPI
   VAP:  HOB, enteral feeds, mouthcare
   Code status: Full code
   Disposition :  Remain in ICU today on ventilator

2141-10-23 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hemolysis labs negative
   - Sputum culture prelim --> 3 different GNR + staph. Discussed with ID
   fellow, treat with ceftaz, vanco, TMP/SMX.  ID also recommended gent,
   but will hold off for now.
   - Patient apneic overnight, placed on MMV.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2141-10-22**] 02:00 PM
   Vancomycin - [**2141-10-22**] 08:08 PM
   Ceftazidime - [**2141-10-23**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-10-22**] 08:14 AM
   Heparin Sodium (Prophylaxis) - [**2141-10-22**] 04:01 PM
   Morphine Sulfate - [**2141-10-22**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Productive cough; denies chest pain, SOB, abdominal pain, discomfort.
   Flowsheet Data as of  [**2141-10-23**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 87 (77 - 110) bpm
   BP: 75/39(52) {75/39(52) - 131/78(95)} mmHg
   RR: 15 (10 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 6 (3 - 10)mmHg
   Total In:
                                                                  4,350 mL
                                                                    741 mL
   PO:
   TF:
                                                                  1,280 mL
                                                                    461 mL
   IVF:
                                                                  2,200 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,935 mL
                                                                    250 mL
   Urine:
                                                                  1,935 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,415 mL
                                                                    491 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   PS : 8 cmH2O
   RR (Set): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 152
   PIP: 24 cmH2O
   Plateau: 10 cmH2O
   SpO2: 94%
   ABG: 7.43/55/69//9
   Ve: 8.1 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General: Awake, responsive to questions
   Pulm: Decreased air movement at right base
   CV: RRR, normal S1/S2, no mumurs
   Abd: Normoactive bowel sounds; soft, nontender, not distended
   Ext: Warm; no pitting edema; palpable but decreased pulses at upper and
   lower extremities
   Labs / Radiology
   328 K/uL
   8.4 g/dL
                                     176
                                    mg/dL
   0.3 mg/dL
   35 mEq/L
   4.3 mEq/L
   10 mg/dL
   99 mEq/L
                                                                       138
                                                                     mEq/L
   25.0 %
   8.5 K/uL
        [image002.jpg]
                            [**2141-10-21**]  05:42 PM
                            [**2141-10-21**]  08:51 PM
                            [**2141-10-21**]  11:05 PM
                            [**2141-10-22**]  12:06 AM
                            [**2141-10-22**]  12:25 AM
                            [**2141-10-22**]  04:11 AM
                            [**2141-10-22**]  10:17 AM
                            [**2141-10-22**]  03:50 PM
                            [**2141-10-23**]  03:37 AM
                            [**2141-10-23**]  04:57 AM
   WBC
   8.5
   8.2
   8.5
   Hct
   27.3
   25.3
   25.8
   25.0
   Plt
   [**Telephone/Fax (3) 5961**]
   Cr
   0.3
   TCO2
   41
   40
   40
   40
   39
   38
   Glucose
   145
   Other labs: PT / PTT / INR:13.8/24.4/1.2, Alk Phos / T Bili:/0.1,
   Differential-Neuts:76.5 %, Lymph:15.3 %, Mono:7.6 %, Eos:0.5 %, Lactic
   Acid:1.0 mmol/L, LDH:109 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.2
   mg/dL
   Cultures: Urine legionella negative, sputum cultures with GNR and GPCs,
   viral and urine cultures pending
   Assessment and Plan
   53M with COPD and history of chronic respiratory failure; s/p recent
   trach removal at rehab and here w/ increased secretions; now s/p
   replacement of trach and continued labile BP of unclear etiology.
   #. Hypercarbic respiratory failure: Chest radiograph with continued
   white out of right middle and lower lung fields. Mucus plugging is high
   on differential. PNA may be hidden in this region
 unable to tell
   because of whiteout. Patient with GNR and GPCs on sputum culture
 also
   has history of infection with Pseudomonas and Stenotrophomonas. COPD
   exacerbation also possible given wheezes and rising PCO2 yesterday
   today without wheezes but persistently elevated PCO2.
   - Continue vanc/ceftaz/TMP-SMX (given history of Stenotrophomas)
   - Continue steroids
 will reduce dose to approach home dose
   - Continue aggressive pulmonary toilet
   - Await culture sensitivities
   - Attempt to wean to PSV again this afternoon
   - Consider coming off of vent once secretions decrease
   #. Hypotension:  Differential includes adrenal insufficiency, autopeep
   on ventilator, hypovolemia, sepsis, autonomic insufficiency. Has
   history of adrenal insufficiency, now on high dose steroids. No
   indication of autopeep on ventilator. Not prerenal by labs. Afebrile,
   and with normal WBC count
 although sputum culture with GPCs and GNRs
   - ?pneumonia?
   - Antibiotics as above.
   - Decrease steroid dosing as above
   - Continue continuous BP monitoring with a-line
   # Schizoaffective d/o vs. schizophrenia: Per psych patient does not
   have capacity to refuse medical care.
   - Continue to reevaluate and f/u psych recs
   - Continue effexor, risperdal and depakote
   - Send valproic acid level
 within normal range on [**2141-10-23**]
   # Seizures: Tonic-clonic seizures in past, thought to be related to
   previous CVA and 'toxic metabolic disturbances' upon previous
   admissions.
   - Continue Keppra 250mg po bid
   - Continue valproic acid as above
   # DM: Blood glucose range 97-180
   - Home lantus 10U QHS and HISS.
   # FEN: tube feeds, nutrition recs, replete lytes prn
   # Access  2xPIV, IJ, and arterial line
   # PPx:  sc heparin tid and PPI, nystatin for thrush
   # Code:  FULL CODE
   # Dispo:  ICU
   # Comm:
   ICU [**Name2 (NI) **] (as above)
   Nutrition:
   Replete with Fiber (Full) - [**2141-10-23**] 12:10 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-21**] 09:09 AM
   Arterial Line - [**2141-10-21**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-24 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Sputum culture: PSEUDOMONAS AERUGINOSA (MODERATE GROWTH), STAPH
   AUREUS COAG + (MODERATE GROWTH) -> Bactrim d/c'ed, tobramycin started;
   ceftaz and vancomycin continued
   - PICC not placed - will be done [**10-24**]
   - On T-piece temporarily - ABG not done, and patient switched back to
   ventilator at his request
   - Basal insulin dosing changed - Lantus 10 -> 12
   - Pulled out trach this morning; replaced, CXR pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2141-10-22**] 02:00 PM
   Vancomycin - [**2141-10-23**] 07:31 PM
   Tobramycin - [**2141-10-23**] 09:45 PM
   Ceftazidime - [**2141-10-24**] 01:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Asking to have hand restraints removed; denies abdominal pain, chest
   pain, discomfort on ventilator
   Flowsheet Data as of  [**2141-10-24**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 108 (78 - 110) bpm
   BP: 101/60(74) {86/44(59) - 167/82(114)} mmHg
   RR: 12 (12 - 23) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
    CVP: 3 (3 - 13)mmHg
   Total In:
                                                                  3,795 mL
                                                                    768 mL
   PO:
   TF:
                                                                  1,570 mL
                                                                    410 mL
   IVF:
                                                                    795 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                  1,955 mL
                                                                    860 mL
   Urine:
                                                                  1,955 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
   LOS: +6,949 mL
                                                                  1,840 mL
                                                                    -92 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   PS 5/5, FiO2 40%, Rate 15; RSBI 50s this AM
   PIP: 21 cmH2O
   Plateau: 23 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 95%
   ABG: ///32/
   Ve: 8.5 L/min
   Physical Examination
   General: Flat affect
   CV: RRR, normal S1/S2, no murmurs
   Pulm: Decreased breath sounds at right base; coarse breath at upper
   airways bilaterally
   Abd: Normoactive bowel sounds; soft, nontender, not distended
   Ext: Lower extremities cool to touch; radial and DP pulses palpable but
   decreased
   Labs / Radiology
   386 K/uL
   9.2 g/dL
   169 mg/dL
   0.3 mg/dL
   32 mEq/L
   3.6 mEq/L
   8 mg/dL
   103 mEq/L
   141 mEq/L
   27.4 %
   13.6 K/uL
        [image002.jpg]
   Ca 8.4; Mg 1.8; Phos 3.6
   PT 13.4; PTT 22.4; INR 1.2
   Valproate 52
                            [**2141-10-21**]  11:05 PM
                            [**2141-10-22**]  12:06 AM
                            [**2141-10-22**]  12:25 AM
                            [**2141-10-22**]  04:11 AM
                            [**2141-10-22**]  10:17 AM
                            [**2141-10-22**]  03:50 PM
                            [**2141-10-23**]  03:37 AM
                            [**2141-10-23**]  04:57 AM
                            [**2141-10-23**]  07:26 AM
                            [**2141-10-24**]  04:07 AM
   WBC
   8.5
   8.2
   8.5
   13.6
   Hct
   27.3
   25.3
   25.8
   25.0
   27.4
   Plt
   [**Telephone/Fax (3) 5981**]86
   Cr
   0.3
   0.1
   0.3
   0.3
   TCO2
   40
   40
   39
   38
   Glucose
   145
   97
   176
   169
   Other labs: PT / PTT / INR:13.4/22.4/1.2, Alk Phos / T Bili:/0.1,
   Differential-Neuts:87.4 %, Lymph:6.6 %, Mono:5.0 %, Eos:0.9 %, Lactic
   Acid:1.0 mmol/L, LDH:109 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.6
   mg/dL
   Sputum culture as above
   Viral culture pending
   Urine culture negative
   Blood culture
 no growth to date
   Assessment and Plan
   53M with COPD and history of chronic respiratory failure; s/p recent
   trach removal at rehab and here w/ increased secretions; now s/p
   replacement of trach and continued labile BP of unclear etiology.
   #. Hypercarbic respiratory failure: Chest radiograph with continued
   white out of right middle and lower lung fields
 although improved.
   Mucus plugging is high on differential. PNA may be hidden in this
   region
 unable to tell because of whiteout. Sputum culture Pseudomonas
   and Staph aureus
 unclear if this is colonizer or actual infection.
   COPD exacerbation also differential.
   - As no clear indication of active pneumonia at this time (afebrile,
   slightly elevated WBC count which may be due to steroid therapy), will
   treat with short day of ceftaz for bronchitis. D/c tobramycin,
   vancomycin
   - Continue to taper steroids to home regimen
   - Continue aggressive pulmonary toilet
 patient still with
   considerable secretions
   - Await culture sensitivities
   - Staying on vent may be best option given patient
s level of
   discomfort off of vent
   #. Hypotension, now resolved: Thought initially to be related to
   adrenal insufficiency. No evidence of autopeep, hypovolemia, sepsis, or
   autonomic insufficiency. Has history of adrenal insufficiency, now on
   high dose steroids.
   - Decrease steroid dose as above
   - [**Month (only) 60**] d/c a-line
   # Schizoaffective d/o vs. schizophrenia: Per psych patient does not
   have capacity to refuse medical care.
   - Reconsult psychiatry given patient
s capacity AND depression
   - Continue to reevaluate and f/u psych recs
   - Continue effexor, risperdal and depakote
   - Send valproic acid level
 within normal range on [**2141-10-24**]
   # Seizures: Tonic-clonic seizures in past, thought to be related to
   previous CVA and 'toxic metabolic disturbances' upon previous
   admissions.
   - Continue Keppra 250mg po bid
   - Continue valproic acid as above
   # DM: Blood glucose range 135-180
   - Lantus increased to 12U QHS + SSI
   # FEN: tube feeds via PEG tube, nutrition recs, replete lytes prn
   # Access  2xPIV, IJ, and arterial line
   # PPx: Heparin SC TID; PPI; nystatin for thrush
   # Code:  FULL CODE
   - revaluate with aid of psychiatry
 also discuss with patient
   healthcare proxy/guardian
   # Dispo: Consider transfer to facility today
   # Comm:
   ICU [**Name2 (NI) **] (as above)
   Nutrition:
   Replete with Fiber (Full) - [**2141-10-23**] 11:34 PM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-10-21**] 09:09 AM
   Arterial Line - [**2141-10-21**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-25 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2141-10-24**] 02:00 PM
 ARTERIAL LINE - STOP [**2141-10-24**] 03:00 PM
 MULTI LUMEN - STOP [**2141-10-24**] 05:00 PM
   - Midline placed and a-line/ CVL pulled
   - started on Flovent, Azithro MWF, changed back to home dose of
   hydrocort (20mg/5mg am/pm)
   - SW consulted and will speak with guardian regarding code status
   - Psych consulted recs:
   1.  reportedly has a guardian [**Telephone/Fax (1) 3316**].  I left a message. If this
   is confirmed (please have guardian fax copy of guardianship for record
   [**Name (NI) 2587**] to confirm legal status, to see whether it includes authority for
   antipsychotics), all medical decisions including code status need to go
   through the guardian.
   2.  would continue risperidone for now, but will try to clarify and
   document whether there is a psychiatric history
   3.  would try to clarify history of seizures, whether anticonvulsants
   are needed, since they are likely to further impair cognition if not
   necessary
   4.  please feel free to call if you have further questions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2141-10-22**] 02:00 PM
   Tobramycin - [**2141-10-23**] 09:45 PM
   Vancomycin - [**2141-10-24**] 08:26 AM
   Ceftazidime - [**2141-10-25**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-24**] 07:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No complaints this morning. Breathing is comfortable.
   Flowsheet Data as of  [**2141-10-25**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.5
C (97.7
   HR: 105 (83 - 109) bpm
   BP: 103/54(64) {79/48(56) - 148/71(87)} mmHg
   RR: 15 (14 - 23) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
    CVP: 9 (6 - 9)mmHg
   Total In:
                                                                  3,305 mL
                                                                    799 mL
   PO:
   TF:
                                                                  1,684 mL
                                                                    437 mL
   IVF:
                                                                    631 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  3,350 mL
                                                                    400 mL
   Urine:
                                                                  3,350 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
   LOS: +7.4L
                                                                    -45 mL
                                                                    399 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 485 (385 - 600) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   SpO2: 93%
   ABG: ///35/
   Ve: 5.6 L/min
   Physical Examination
   General: Flat affect
   CV: RRR, normal S1/S2, no murmurs
   Pulm: Decreased breath sounds at right base; coarse/rhoncherous breath
   at upper airways bilaterally
 unchanged from yesterday
   Abd: Hypoactive bowel sounds; soft, nontender, not distended
   Ext: Lower extremities cool to touch; radial and DP pulses palpable but
   decreased
   Labs / Radiology
   360 K/uL
   9.6 g/dL
   123 mg/dL
   0.3 mg/dL
   35 mEq/L
   3.8 mEq/L
   8 mg/dL
   102 mEq/L
   143 mEq/L
   28.9 %
   8.1 K/uL
        [image002.jpg]
   Ca 8.4; Mg 1.9; Phos 3.7
   INR 1.2; PTT 23.5
                            [**2141-10-22**]  12:06 AM
                            [**2141-10-22**]  12:25 AM
                            [**2141-10-22**]  04:11 AM
                            [**2141-10-22**]  10:17 AM
                            [**2141-10-22**]  03:50 PM
                            [**2141-10-23**]  03:37 AM
                            [**2141-10-23**]  04:57 AM
                            [**2141-10-23**]  07:26 AM
                            [**2141-10-24**]  04:07 AM
                            [**2141-10-25**]  04:13 AM
   WBC
   8.5
   8.2
   8.5
   13.6
   8.1
   Hct
   27.3
   25.3
   25.8
   25.0
   27.4
   28.9
   Plt
   [**Telephone/Fax (3) 5981**]86
   360
   Cr
   0.3
   0.1
   0.3
   0.3
   0.3
   TCO2
   40
   39
   38
   Glucose
   145
   97
   176
   169
   123
   Other labs: PT / PTT / INR:13.4/23.5/1.2, Alk Phos / T Bili:/0.1,
   Differential-Neuts:87.4 %, Lymph:6.6 %, Mono:5.0 %, Eos:0.9 %, Lactic
   Acid:1.0 mmol/L, LDH:109 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.7
   mg/dL
   Sputum culture (suspected to be colonizers):
                             PSEUDOMONAS AERUGINOSA
                             |          STAPH AUREUS COAG +
                             |          |
CEFEPIME--------------     2 S
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------   =>4 R
ERYTHROMYCIN----------              =>8 R
GENTAMICIN------------   <=1 S    <=0.5 S
LEVOFLOXACIN----------                4 R
MEROPENEM-------------     1 S
OXACILLIN-------------              =>4 R
PENICILLIN G----------            =>0.5 R
PIPERACILLIN----------   <=4 S
PIPERACILLIN/TAZO-----   <=4 S
RIFAMPIN--------------            <=0.5 S
TETRACYCLINE----------              <=1 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----            <=0.5 S
VANCOMYCIN------------              <=1 S
   Assessment and Plan
   53M with COPD and history of chronic respiratory failure; s/p recent
   trach removal at rehab and here w/ increased secretions; now s/p
   replacement of trach and continued labile BP of unclear etiology.
   #. Hypercarbic respiratory failure: Chest radiograph with continued
   white out of right middle and lower lung fields
 although improved.
   Mucus plugging is high on differential. PNA may be hidden in this
   region
 unable to tell because of whiteout. Sputum culture Pseudomonas
   and Staph aureus
 unclear if this is colonizer or actual infection.
   COPD exacerbation also differential.
   - As no clear indication of active pneumonia at this time (afebrile,
   slightly elevated WBC count which may be due to steroid therapy), will
   treat with short day of ceftaz for bronchitis. D/c tobramycin,
   vancomycin. Ceftaz day 4 on [**2141-10-25**].
   - Flovent started [**2141-10-24**] for severe COPD
   - Azithromycin QMWF to help reduce chronic secretions (via
   antibacterial and anti-inflammatory effect)
   - Continue steroids per home regimen - hydrocortisone 20mg/5mg am/pm
   - Continue aggressive pulmonary toilet
 patient still with
   considerable secretions
   - Staying on vent may be best option given patient
s level of
   discomfort off of vent
   #. Hypotension: Occasional pressures drop to MAPs in 50s. Thought
   initially to be related to adrenal insufficiency. No evidence of
   autopeep, hypovolemia, sepsis, or autonomic insufficiency. Has history
   of adrenal insufficiency, now on high dose steroids.
   - Decrease steroid dose as above
   # Schizoaffective d/o vs. schizophrenia: Per psych patient does not
   have capacity to refuse medical care.
   - Continue to reevaluate and f/u psych recs - no info re: capacity,
   will speak to psych today
   - Continue effexor, risperdal and depakote
   - Send valproic acid level
 within normal range on [**2141-10-24**]
   # Seizures: Tonic-clonic seizures in past, thought to be related to
   previous CVA and 'toxic metabolic disturbances' upon previous
   admissions.
   - Continue Keppra 250mg po bid
   - Continue valproic acid as above
   # DM: Blood glucose range 120-180
   - Lantus increased to 12U QHS + SSI
   # FEN:
   - Tube feeds via PEG tube, replete lytes prn
   # Access:
   - Midline placed [**2141-10-24**]
   - Arterial line, central line removed
   # PPx: Heparin SC TID; PPI; nystatin for thrush
   # Code:  FULL CODE
   - Social work involved; will speak to patient
s healthcare
   proxy/guardian to assess goals of care
   # Dispo:
   - Case management involved - patient to be screened by his facility
   today
   # Comm:
   ICU [**Name2 (NI) **] (as above)
   Nutrition:
   Replete with Fiber (Full) - [**2141-10-24**] 08:56 PM 70 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2141-10-24**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: